US04435569
In 10 ml of dry methanol is dissolved 340 mg of 2-amino-7-benzyl-3-isopropyloxymethylpyrrolo[2,3-d]pyrimidin-4-one-5-carbaldehyde and 93 mg of aniline and the mixture is allowed to stand under stirring at room temperature for 60 min. The mixture is then cooled to 0° C. and treated with 38 mg of sodium borohydride for 2 hrs. The excess reagent is decomposed with HCl, the solvent is distilled off under reduced pressure, and the residue is purified by silica gel column chromatography to give 285 mg of 2-amino-7-benzyl-5-phenylaminomethyl-3-isopropyloxymethylpyrrolo[2,3-d]pyrimidin-4-one. The whole amount of the above product is dissolved in 28.5 ml of liquid ammonia-dimethoxyethane (1:1) and an excess of sodium metal shavings are added until a permanent blue color is observed for more than 5 min. To this mixture is added ammonium chloride to terminate the reaction and the whole system is allowed to stand at room temperature until the liquid ammonia is removed. The dimethoxyethane is then distilled off under reduced pressure and the residue is purified by silica gel column chromatography to give 128 mg of 2-amino-5-phenylaminomethyl-3-isopropyloxymethylpyrrolo[2,3-d]pyrimidin-4-one. This product is further dissolved in 50 ml of 2 N--HCl and after nitrogen purging, hydrolyzed by heating at 70° C. for 5 hrs. The solvent is then evaporated to dryness under reduced pressure to give 120 mg of the desired compound.

reactant | 2-amino-7-benzyl-3-isopropyloxymethylpyrrolo[2,3-d]pyrimidin-4-one-5-carbaldehyde | 340 mg | NC=1N(C(C2=C(N1)N(C=C2C=O)CC2=CC=CC=C2)=O)COC(C)C | C18H20N4O3
reactant | aniline | 93 mg | NC1=CC=CC=C1 | C6H7N
reactant | sodium borohydride | 38 mg | [BH4-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 2-amino-7-benzyl-5-phenylaminomethyl-3-isopropyloxymethylpyrrolo[2,3-d]pyrimidin-4-one | 285 mg | NC=1N(C(C2=C(N1)N(C=C2CNC2=CC=CC=C2)CC2=CC=CC=C2)=O)COC(C)C | C24H27N5O2
